US04536501
A mixture of (S)-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-4-[4-(2-methoxyethenyl)phenoxy]-L-proline, diphenylmethyl ester (4.0 g., 6.3 mmole), 4-amino-6-chloro-N3 -methyl-1,3-benzenedisulfonamide (1.89 g., 1 eq.), 4 ml. anisole, and 130 mg. p-toluenesulfonic acid in 200 ml. of acetonitrile is refluxed. 80 ml. of acetonitrile is distilled off in order to azeotrope off water. The reaction appears to be complete as soon as the distillation is finished. The reaction solution is evaporated and the residue is triturated with diethyl ether. The solid is flash chromatographed on LPS-1 silica eluting with ethyl acetate:acetone (1:1) followed by 10% acetic acid:acetone. After concentrating to a residue, water is added and the gummy solid is absorbed on a filter pad and washed with water to remove acetic acid. The product is then washed from the pad with ethyl acetate. The ethyl acetate solution is washed with water, dried (Na2SO4), and concentrated to a residue (3 g.). A portion of this residue is run through an LH-20 (methanol) column to give an analytically pure sample of (S)-4-[4-[[7-(aminosulfonyl)-6-chloro-3,4-dihydro-2-methyl-1,1-dioxo-2H-1,2,4-benzothiadiazin-3-yl]methyl]phenoxy]-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-L-proline; m.p. 228° (decomposition); [α]D =-31.7° (c=1.0%, methanol). TLC (silica, methylene chloride:methanol:acetic acid, 8:1:1) Rf =0.52.

reactant | (S)-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-4-[4-(2-methoxyethenyl)phenoxy]-L-proline, diphenylmethyl ester | 6.3 mmole, 4.0 g | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1[C@H](C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)CC(C1)OC1=CC=C(C=C1)C=COC)C | C38H37NO6S
reactant | 4-amino-6-chloro-N3 -methyl-1,3-benzenedisulfonamide | 1.89 g, 1 eq. | NC1=C(C=C(C(=C1)Cl)S(=O)(=O)N)S(=O)(=O)NC | C7H10ClN3O4S2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetonitrile | C(C)#N | C2H3N
product | (S)-4-[4-[[7-(aminosulfonyl)-6-chloro-3,4-dihydro-2-methyl-1,1-dioxo-2H-1,2,4-benzothiadiazin-3-yl]methyl]phenoxy]-1-[(S)-3-(benzoylthio)-2-methyl-1-oxopropyl]-L-proline | NS(=O)(=O)C1=CC2=C(NC(N(S2(=O)=O)C)CC2=CC=C(OC3C[C@H](N(C3)C([C@@H](CSC(C3=CC=CC=C3)=O)C)=O)C(=O)O)C=C2)C=C1Cl | C31H33ClN4O9S3
